US04897483
A solution of ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-oxohexanoate [prepared according to Chem. Pharm. Bull, 34, 3747 (1986)] (7.4 g) and Nε -benzyloxycarbonyl-L-lysyl-L-proline benzylester.trifluoroacetic acid salt (4.6 g) in ethanol (40 ml) is adjusted to pH 5 with triethylamine. To this solution is added 2 g of molecular sieves, and the reaction mixture is stirred for 30 minutes. A solution of sodiumcyanoborohydride (1.4 g) in ethanol (40 ml) is dropped therein under stirring for 5 hours, and is kept stirring for further one night. The ethanol is distilled under reduced pressure, thereafter the residue is transferred to ethyl acetate. The ethyl acetate layer is washed with water, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. To the residue ether is added. The ether layer is washed with water and then ether is distilled under reduced pressure. The residue is applied to silica gel chromatography (ethyl acetate:hexane=2:1) to obtain, from the first effluence, 1.34 g of Nα -[1(R)-ethoxycarbonyl- 5-(1-benzyloxycarbonyl-4-piperidyl)pentyl]-Nε -benzyloxycarbonyl-L-lysyl-L-proline benzylester (Rf=0.62, expansive solvent, F), and from the following effluence, 1.15 g of Nα -[1(S)ethoxycarbonyl-5-(1-benzyloxycarbonyl-4-piperidyl)pentyl]-Nε -benzyloxycarbonyl-L-proline benzylester (Rf=0.52, expansive solvent, F).

reactant | ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-oxohexanoate | 7.4 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)=O | C21H29NO5
reactant | Nε -benzyloxycarbonyl-L-lysyl-L-proline benzylester | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](N)CCCCNC(=O)OCC1=CC=CC=C1)=O)=O | C26H33N3O5
reactant | trifluoroacetic acid | 4.6 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodiumcyanoborohydride | 1.4 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Nα -[1(R)-ethoxycarbonyl- 5-(1-benzyloxycarbonyl-4-piperidyl)pentyl]-Nε -benzyloxycarbonyl-L-lysyl-L-proline benzylester | 1.34 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](N[C@H](CCCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC)CCCCNC(=O)OCC1=CC=CC=C1)=O)=O | C47H62N4O9
